US05629321
Synthesis of tert-butyl 7-[N-(4-cyanophenyl)carbamoyl]-1,2,3,4-tetrahydronaphthalene-2-acetate (Compound No. 138)
In 5 ml of toluene, 0.7 g of the compound obtained in the step (5-6) and 1.5 ml of oxalyl chloride were dissolved and a drop of N,N-dimethylformamide was added. The mixture was stirred for an hour at room temperature. The solvent was distilled off under reduced pressure to obtain corresponding acid chloride. Acid chloride thus obtained was dissolved in 5 ml of tetrahydrofuran, and 0.35 g of 4-aminobenzonitrile, 1 ml of pyridine and 50 mg of 4-dimethylaminopyridine were added. The mixture was stirred for 4 hours at room temperature. The reaction mixture was mixed with on aqueous sodium hydrogen carbonate solution and extracted with chloroform. The extracted chloroform solution was dried with anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain crude product. The crude product was purified by silica gel column chromatography using a mixture, chloroform:ethyl acetate=5:1, as a developer to yield 0.47 g of the entitled compound.

reactant | 4-aminobenzonitrile | 0.35 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 7-[N-(4-cyanophenyl)carbamoyl]-1,2,3,4-tetrahydronaphthalene-2-acetate | 0.47 g | C(#N)C1=CC=C(C=C1)NC(=O)C1=CC=C2CCC(CC2=C1)CC(=O)OC(C)(C)C | C24H26N2O3
